US09085555B2
(3-Acetyl-6-methoxycarbonylmethyl-indol-1-yl)-acetic acid
was prepared from (3-acetyl-1H-indol-6-yl)-acetic acid methyl ester in a similar manner as described in Scheme A13 for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid. Brown solid. MS: 290 [M+H]+; tR (HPLC conditions k): 2.83 min.

reactant | (3-acetyl-1H-indol-6-yl)-acetic acid methyl ester | COC(CC1=CC=C2C(=CNC2=C1)C(C)=O)=O | C13H13NO3
reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
product | (3-Acetyl-6-methoxycarbonylmethyl-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC(=CC=C12)CC(=O)OC)CC(=O)O | C15H15NO5
